US05536750
Step C: N-[2(S)-(2(R)-amino-3-mercaptopropylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)-glycyl methionine
N-[2(S)-(2(R)-amino-3-mercaptopropylamino)-3(S)-methylpentyl]-N-(3-quinolylmethyl)-glycyl methionine methyl ester Anal. calculated for C27H43N5O3S2. 3.85 CF3CO2H: C, 42.15; H, 4.78; N, 7.08; Found: C, 41.96; H, 5.01; N, 7.48.

reactant | N-[2(S)-(2(R)-amino-3-mercaptopropylamino)-3(S)-methylpentyl]-N-(3-quinolylmethyl)-glycyl methionine methyl ester | COC([C@@H](NC(CN(CC=1C=NC2=CC=CC=C2C1)C[C@H]([C@H](CC)C)NC[C@H](CS)N)=O)CCSC)=O | C27H43N5O3S2
reactant | CF3CO2H | C(F)(F)(F)C(=O)O | C2HF3O2
product | N-[2(S)-(2(R)-amino-3-mercaptopropylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)-glycyl methionine | N[C@H](CN[C@H](CN(CC(=O)N[C@@H](CCSC)C(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H](CC)C)CS | C27H42N4O3S2
